US04086242
To a hot, stirred solution (50° C) of 20.0 g. of 4-nitrobenzotriazole in 600 ml. of acetonitrile is added 4.2 g. of sodium hydroxide pels and 20.0 g. of isopropyl iodide. The solution is then heated to reflux for 30 hours, filtered and the solvent removed by evaporation to yield an oil. The oil is extracted with concentrated hydrochloric acid (3 × 200 ml.) to leave behind a solid material. The solid is washed with water and air dried to yield crude 2-isopropyl-4-nitrobenzotriazole. The analytical sample is recrystallized from petroleum ether, m.p. 65°-67° C.

reactant | 4-nitrobenzotriazole | [N+](=O)([O-])C1=CC=CC=2NN=NC21 | C6H4N4O2
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-isopropyl-4-nitrobenzotriazole | C(C)(C)N1N=C2C(=N1)C=CC=C2[N+](=O)[O-] | C9H10N4O2
